US08049013B2
5-[4-(Azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-chloro-phenyl)-6,7-dihydro-5H -thiazolo[5,4-c]pyridin-4-one
Dissolve 3-{4-[2-(4-chloro-phenyl)-4-oxo-6,7-dihydro-4H-thiazolo[5,4-c]pyridin-5-yl]-2-methoxy-phenoxy}-azetidine-1-carboxylic acid tert-butyl ester (2.71 g, 5.00 mmol) in CH2Cl2 (20 mL). Add trifluoroacetic acid (5.88 mL, 77.79 mmol). Stir at room temperature for one hour and then add 5 N NaOH to pH=8-10. Collect a white/yellow precipitate via vacuum filtration, and wash the solid with EtOAc followed by Et2O. Dry the solid overnight in vacuo at about 50° C. to give 2.21 g (>99%) of the title compound. ES/MS m/z (35Cl) 442.0 [M+1]+.

reactant | 3-{4-[2-(4-chloro-phenyl)-4-oxo-6,7-dihydro-4H-thiazolo[5,4-c]pyridin-5-yl]-2-methoxy-phenoxy}-azetidine-1-carboxylic acid tert-butyl ester | 5.00 mmol, 2.71 g | C(C)(C)(C)OC(=O)N1CC(C1)OC1=C(C=C(C=C1)N1C(C2=C(CC1)N=C(S2)C2=CC=C(C=C2)Cl)=O)OC | C27H28ClN3O5S
reactant | trifluoroacetic acid | 77.79 mmol, 5.88 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | 5 N | [OH-].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-[4-(Azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-chloro-phenyl)-6,7-dihydro-5H -thiazolo[5,4-c]pyridin-4-one | 2.21 g, >99% | N1CC(C1)OC1=C(C=C(C=C1)N1C(C2=C(CC1)N=C(S2)C2=CC=C(C=C2)Cl)=O)OC | C22H20ClN3O3S
